US06399606B1
Methyl 3-(3-Pyridylcarbonyl)but-3-enoate
A solution of methyl 4-oxo-3-(piperidylmethyl)-4-(3-pyridyl)butanoate (4 g) in ethanol (10 mL) and 4N HCl/dioxane (4.0 mL) was heated at 80° C. for 12 hrs. The reaction mixture was concentrated and purified on flash chromatography (SIO2, CHCl3: MeOH: CH3COOH=10: 1:0.5) to give 2.28 g of the title compound.

reactant | methyl 4-oxo-3-(piperidylmethyl)-4-(3-pyridyl)butanoate | 4 g | O=C(C(CC(=O)OC)CN1CCCCC1)C=1C=NC=CC1 | C16H22N2O3
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | HCl dioxane | 4N, 4.0 mL | Cl.O1CCOCC1
product | Methyl 3-(3-Pyridylcarbonyl)but-3-enoate | 2.28 g | N1=CC(=CC=C1)C(=O)C(CC(=O)OC)=C | C11H11NO3
